US05444072
Methyl (E) 6-(1,3-dihydro-6-hydroxymethyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate (0.2 g) is dissolved in dichloromethane (10 ml) and pyridinium chlorochromate (0.15 g) is added. After one hour water (25 ml) is added. The organic solution is dried and evaporated and the residue is chromatographed on silica gel, eluting with hexane:ethyl acetate, to afford methyl (E) 6-(1,3-dihydro-6-formyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate.

reactant | Methyl (E) 6-(1,3-dihydro-6-hydroxymethyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate | 0.2 g | OCC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/CCC(=O)OC)\C | C25H28O8S
reactant | pyridinium chlorochromate | 0.15 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | water | 25 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl (E) 6-(1,3-dihydro-6-formyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate | C(=O)C1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/CCC(=O)OC)\C | C25H26O8S
